US08124617B2
2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine
A solution (20 ml) of pyridine-2,3-diamine (0.6 g), 5-(benzyloxy)-2-isopropoxybenzoic acid (1.31 g), 1-hydroxybenztriazole hydrate (0.93 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.32 g) in N,N-dimethylformamide was stirred at room temperature for 18 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated to give as pale-brown crystals. The obtained crystals were added to acetic acid (2.5 ml)-ethanol (2.5 ml), and the mixture was subjected to microwave irradiation in a sealed reaction container at 180° C. for 40 min. The reaction mixture was concentrated, and the precipitated crystals were collected by filtration and washed with ethanol to give the title compound (0.53 g, yield 32%) as colorless crystals. melting point 160-162° C. purity 95%. M+H: 360. 1H NMR (CDCl3) δ: 1.50 (6H, d, J=6.2 Hz), 4.64-4.85 (1H, m), 5.16 (2H, s), 6.95-7.56 (8H, m), 8.08 (1H, d, J=7.9 Hz), 8.21 (1H, d, J=2.8 Hz), 8.36 (1H, t, J=5.6 Hz), 11.06 (1H, s).

reactant | pyridine-2,3-diamine | 20 ml, 0.6 g | N1=C(C(=CC=C1)N)N | C5H7N3
reactant | 5-(benzyloxy)-2-isopropoxybenzoic acid | 1.31 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)O)C1)OC(C)C | C17H18O4
reactant | 1-hydroxybenztriazole hydrate | 0.93 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.32 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | 2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine | 0.53 g, yield 32% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC=CC2)N1)OC(C)C | C22H21N3O2
